US04788199
3-(2-Aminobenzoyl)propionic acid (26.7 g) and concentrated sulphuric acid (25 cc) in absolute ethanol (250 cc) are stirred for 17 hours at room temperature (approximately 20° C.). The ethanol is evaporated off under reduced pressure, water (200 cc) and ethyl acetate (200 cc) are added and potassium carbonate is added until the pH is 8. The mixture is filtered, and the aqueous phase decanted and re-extracted with ethyl acetate (2×100 cc). The organic phase is dried over magnesium sulphate, filtered and evaporated to dryness under reduced pressure. Ethyl 3-(2-aminobenzoyl)propionate (24.8 g) is obtained in the form of an oil. The proton NMR spectrum in deuterated chloroform shows the following characteristics:

reactant | 3-(2-Aminobenzoyl)propionic acid | 26.7 g | NC1=C(C(=O)CCC(=O)O)C=CC=C1 | C10H11NO3
reactant | sulphuric acid | 25 cc | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 250 cc | C(C)O | C2H6O
product | Ethyl 3-(2-aminobenzoyl)propionate | 24.8 g | NC1=C(C(=O)CCC(=O)OCC)C=CC=C1 | C12H15NO3
